US09079860B2
Part A: ((S)-1-{4-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-imidazol-2-yl}-2-phenyl-ethyl)-carbamic acid tert-butyl ester
{(S)-1-[4-(4-Cyanophenyl)-1H-imidazol-2-yl]-2-phenylethyl}carbamic acid tert-butyl ester prepared as described in Example 28 Part A (1.00 equiv; 2.57 mmoles; 1.00 g) was dissolved in 15 mL EtOH and Hydroxylamine Hydrochloride (12.87 mmoles; 894.42 mg) and Triethylamine (12.87 mmoles; 1.79 mL) were added. The resulting solution was heated at reflux in an 80° C. oil bath under N2 overnight. Reaction was cooled to room temperature and evaporated to remove EtOH. Residue was suspended in a mixture of EtOAc/EtOH (˜10:1) and filtered to remove inorganic solids. Filtrate was reconcentrated to a yellow foam. This residue was redissolved in 10 mL HOAc and treated with stirring under N2 with Acetic Anhydride (4.23 mmoles; 400 μL). Solution was stirred for 20 min at room temperature, then heated in 80° C. oil bath for 2 h, cooled to room temperature and stirred overnight. Most of HOAc was removed on rotary evaporator, then residue was diluted with water and carefully neutralized by addition of sat'd NaHCO3 to pH˜8. Extracted 3× with CH2Cl2. Combined extracts were washed with brine then dried over MgSO4, filtered and evaporated to a lt red foam. Residue was purified on silica gel to provide the product as a lt pinkish tan foam. (590 mg; 51.4%). 1H NMR (500 MHz, CDCl3) δ 1.41 (s, 9H) 2.65 (s, 3H) 3.28-3.44 (m, 2H) 4.88 (d, J=7.70 Hz, 1H) 5.23 (s, 1H) 7.13-7.36 (m, 5H) 7.42-7.55 (m, 1H) 7.88 (d, J=8.25 Hz, 2H) 8.06 (d, J=8.25 Hz, 2H) 9.67 (s, 1H). m/z 446.1 (M+H)+.

reactant | {(S)-1-[4-(4-Cyanophenyl)-1H-imidazol-2-yl]-2-phenylethyl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C=1NC=C(N1)C1=CC=C(C=C1)C#N)=O | C23H24N4O2
reactant | Hydroxylamine Hydrochloride | 12.87 mmoles, 894.42 mg | Cl.NO
reactant | Triethylamine | 12.87 mmoles, 1.79 mL | C(C)N(CC)CC | C6H15N
reactant | Acetic Anhydride | 4.23 mmoles, 400 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOH | 15 mL | CCO | C2H6O
product | ((S)-1-{4-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-1H-imidazol-2-yl}-2-phenyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C=1NC=C(N1)C1=CC=C(C=C1)C1=NOC(=N1)C)=O | C25H27N5O3
